US07973040B2
Step 2: 3-chloro-6-methoxyquinoxalin-2-ol
A solution (1.53 M) of 6-methoxyquinoxaline-2,3-diol in DMF was treated with SOCl2 (1 eq) and heated at 110° C. After 1.5 h, the reaction mixture was cooled and poured into aqueous HCl (1 N). The resulting precipitate was filtered and washed with H2O and Et2O. The dried solid contained predominantly the title compound as a mixture with 6-methoxyquinoxaline-2,3-diol and 2,3-dichloro-6-methoxyquinoxaline. This material was used directly in the subsequent step. MS (ES+) m/z 211 (M+H)+

reactant | 6-methoxyquinoxaline-2,3-diol | 1.53 M | COC=1C=C2N=C(C(=NC2=CC1)O)O | C9H8N2O3
reactant | SOCl2 | 1 eq | O=S(Cl)Cl | Cl2OS
reactant | HCl | 1 N | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-chloro-6-methoxyquinoxalin-2-ol | ClC=1C(=NC2=CC=C(C=C2N1)OC)O | C9H7ClN2O2
